US07470680B2
1-methyl-6-(piperidin-4-yl)-1H-pyrrolo[3,2-b]pyridin-5(4H)-one.
To tert-butyl 4-(5-methoxy-1-methyl-1H-pyrrolo [3,2-b]pyridin-6-yl)piperidine-1-carboxylate (104 mg, 0.301 mmol) in CH2Cl2 (3 mL) was added TMS-I (123 μl, 0.903 mmol) at rt. The resulting brown solution was stirred at 60° C. over night. Partial of the solvent was removed on rotary vacuo, the residue was purified on reverse phase PrepHPLC to afford the expected product, 1-methyl-6-(piperidin-4-yl)-1H-pyrrolo[3,2-b]pyridin-5(4H)-one (65 mg, 94%). 1H-NMR (400 MHz, MeOD) δ ppm 2.05 (s, 3 H) 2.13 (s, 3 H) 3.20 (s, 4 H) 3.55 (s, 3 H) 6.25 (s, 1 H) 7.35 (s, 1 H) 8.01 (s, 1 H); Mass spec 232.19 Calc for C13H17N3O 231.14.

reactant | tert-butyl 4-(5-methoxy-1-methyl-1H-pyrrolo [3,2-b]pyridin-6-yl)piperidine-1-carboxylate | 0.301 mmol, 104 mg | COC1=C(C=C2C(=N1)C=CN2C)C2CCN(CC2)C(=O)OC(C)(C)C | C19H27N3O3
reactant | TMS-I | 0.903 mmol, 123 μl | [Si](C)(C)(C)I | C3H9ISi
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-6-(piperidin-4-yl)-1H-pyrrolo[3,2-b]pyridin-5(4H)-one | 65 mg, 94% | CN1C=CC=2NC(C(=CC21)C2CCNCC2)=O | C13H17N3O
